US04164581
Preparation of 1-(2,6-dichlorobenzoyl)-3-(4-trifluoromethyl-2-thiazolyl)urea.
To a solution of 1.7 g (0.01 mole) of 4-trifluoromethyl-2-aminothiazole in 50 ml of dry ethylacetate was added all at once to a solution of 2.16 g (0.01 mole) of freshly prepared 2,6-dichlorobenzoylisocyanate dissolved in 10 ml of dry ethylacetate. The mixture was allowed to stir at 25° for 4 hours. The solvent was evaporated in vacuo, ether was added to the residue, and the solid was removed by filtration to give 3.7 g of product, m.p. 210°-213°. The infrared and nuclear magnetic resonance spectra were consistent with the proposed structure.

reactant | 4-trifluoromethyl-2-aminothiazole | 0.01 mole, 1.7 g | FC(C=1N=C(SC1)N)(F)F | C4H3F3N2S
reactant | 2,6-dichlorobenzoylisocyanate | ClC1=C(C(=O)N=C=O)C(=CC=C1)Cl | C8H3Cl2NO2
solvent | ethylacetate | 50 ml | C(C)OC(C)=O | C4H8O2
solvent | ethylacetate | 10 ml | C(C)OC(C)=O | C4H8O2
product | 1-(2,6-dichlorobenzoyl)-3-(4-trifluoromethyl-2-thiazolyl)urea | 3.7 g | ClC1=C(C(=O)NC(=O)NC=2SC=C(N2)C(F)(F)F)C(=CC=C1)Cl | C12H6Cl2F3N3O2S
